US08859541B2
B4a) tert-butyl-N-[1-[(1-bromoisoquinolin-3-yl)amino]-1-oxopropan-2-yl]carbamate
HATU (7.5 g, 19.7 mmol) is added to a mixture of 1-bromoisoquinolin-3-amine (2.0 g, 9.0 mmol), 2-[(2-methylpropan-2-yl)oxycarbonylamino]propanoic acid (1.7 g, 9.0 mmol) and DIPEA (3.4 ml, 200 mmol) in DMA (10 ml). After stirring for 3 days at RT the mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 3.3 g (94%). HPLC-MS: M−H=392/394; tR=1.97 min (*Method—1).

reactant | HATU | 19.7 mmol, 7.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-bromoisoquinolin-3-amine | 9.0 mmol, 2.0 g | BrC1=NC(=CC2=CC=CC=C12)N | C9H7BrN2
reactant | 2-[(2-methylpropan-2-yl)oxycarbonylamino]propanoic acid | 9.0 mmol, 1.7 g | CC(C)(C)OC(=O)NC(C(=O)O)C | C8H15NO4
reactant | DIPEA | 200 mmol, 3.4 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 10 ml | CC(=O)N(C)C | C4H9NO
product | tert-butyl-N-[1-[(1-bromoisoquinolin-3-yl)amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(NC(C(=O)NC=1N=C(C2=CC=CC=C2C1)Br)C)=O | C17H20BrN3O3
